US07544688B2
4-(2,2-Dimethyl-propylamino)-6-[3-(4-isopropyl-piperazin-1-yl)-propoxy]-quinazoline-2-carbonitrile
4-(2,2-Dimethyl-propylamino)-6-hydroxy-quinazoline-2-carbonitrile (0.31 mmol), 1-(3-chloro-propyl)-4-propyl-piperazine (0.62 mmol) and cesium carbonate (3.1 mmol) are stirred in DMF (3 ml) at RT for 20 hours. Water is added until a clear solution is formed. Then more water is added until the solution gets turbide. The precipitate formed is filtered off, washed with water and dried (vacuum). A powder with mp. 103-105° C., Rf=0.4 (CH2Cl2/MeOH=9:2) is obtained.

reactant | 4-(2,2-Dimethyl-propylamino)-6-hydroxy-quinazoline-2-carbonitrile | 0.31 mmol | CC(CNC1=NC(=NC2=CC=C(C=C12)O)C#N)(C)C | C14H16N4O
reactant | 1-(3-chloro-propyl)-4-propyl-piperazine | 0.62 mmol | ClCCCN1CCN(CC1)CCC | C10H21ClN2
reactant | cesium carbonate | 3.1 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(2,2-Dimethyl-propylamino)-6-[3-(4-isopropyl-piperazin-1-yl)-propoxy]-quinazoline-2-carbonitrile | CC(CNC1=NC(=NC2=CC=C(C=C12)OCCCN1CCN(CC1)C(C)C)C#N)(C)C | C24H36N6O
